US04207263
The procedure described in Example 1 is followed. 650 parts of 2-ethyl-hexan-1-ol, 300 parts of a reduced nickel catalyst which contains 60% of nickel on kieselguhr and 7 parts of sodium bicarbonate are heated to 140° C. and at this temperature ammonia gas is passed into the well-stirred suspension at the rate at which it is converted. The reaction ends after 8 hours. The mixture is worked up by distillation and gives 96% of theory of di-2-ethylhexylamine, 1% of theory of 2-ethylhexylamine and 0.3% of theory of tri-2-ethylhexylamine.

reactant | 2-ethyl-hexan-1-ol | C(C)C(CO)CCCC | C8H18O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ammonia | N | H3N
catalyst | nickel | [Ni] | Ni
product | 2-ethylhexylamine | C(C)C(CN)CCCC | C8H19N
